US05015678
4-Benzyloxy-1-[2-(methoxycarbonyl)ethoxy]-2,2,6,6-tetramethylpiperidine
A mixture of 20.0 grams (76 mmol) of 4-benzyloxyl-oxyl-2,2,6,6-tetramethylpiperidine, 10.0 grams of anhydrous magnesium sulfate, 500 mg of 5% palladium on carbon and 150 ml of tetrahydrofuran is hydrogenated on a Parr apparatus (50 psi, ambient temperature). Catalyst and drying agent are removed by filtration and the filtrate is quickly transferred to a flask under a nitrogen atmosphere. To the flask are added 0.85 gram of potassium tert-butoxide, 19.7 grams (229 mmol) of methyl acrylate, and 50 ml of tetrahydrofuran. The reaction mixture is stirred at ambient temperature for three hours and at 55° C. for one hour. The reaction mixture is partitioned between ether (300 ml) and saturated sodium bicarbonate solution (150 ml). The ether layer is washed with water (2×500 ml), washed with saturated aqueous sodium chloride (200 ml), dried over anhydrous magnesium sulfate and concentrated to an oil. The oil is purified by flash chromatography (silica gel; 9:1 hexane:ethyl acetate) to afford 13.0 grams of the title compound as a colorless liquid.

reactant | 4-benzyloxyl-oxyl-2,2,6,6-tetramethylpiperidine | 76 mmol, 20.0 grams | C(C1=CC=CC=C1)OC1CC(N(C(C1)(C)C)O)(C)C | C16H25NO2
reactant | magnesium sulfate | 10.0 grams | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | potassium tert-butoxide | 0.85 gram | CC(C)([O-])C.[K+]
reactant | methyl acrylate | 229 mmol, 19.7 grams | C(C=C)(=O)OC | C4H6O2
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-Benzyloxy-1-[2-(methoxycarbonyl)ethoxy]-2,2,6,6-tetramethylpiperidine | 13.0 grams | C(C1=CC=CC=C1)OC1CC(N(C(C1)(C)C)OCCC(=O)OC)(C)C | C20H31NO4
